US08877751B2
Preparation of 3-[3-(5-bromopyrimidin-2-yl)benzyl]-5-trifluoromethyl-3H-benzothiazol-2-one
1 g (4.56 mmol) of 5-trifluoromethyl-3H-benzothiazol-2-one, 1.3 g (4.56 mmol) of 5-bromo-2-(3-chloromethylphenyl)pyrimidine and 4.5 g (13.69 mmol) of caesium carbonates are suspended in 15 ml of DMF and stirred at room temperature for 15 h and at 80° C. for 3 h. The suspension is added to water, and the precipitate is filtered off with suction, washed with methanol and dried in vacuo, giving beige crystals; HPLC: Rt.=3.72 min (method A);

reactant | 5-trifluoromethyl-3H-benzothiazol-2-one | 4.56 mmol, 1 g | FC(C=1C=CC2=C(NC(S2)=O)C1)(F)F | C8H4F3NOS
reactant | 5-bromo-2-(3-chloromethylphenyl)pyrimidine | 4.56 mmol, 1.3 g | BrC=1C=NC(=NC1)C1=CC(=CC=C1)CCl | C11H8BrClN2
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-[3-(5-bromopyrimidin-2-yl)benzyl]-5-trifluoromethyl-3H-benzothiazol-2-one | BrC=1C=NC(=NC1)C=1C=C(CN2C(SC3=C2C=C(C=C3)C(F)(F)F)=O)C=CC1 | C19H11BrF3N3OS
